US05849755
15.1 g (70 mmol) of 3-amino-7-methoxychroman hydrochloride (Eur. J. Med. Chem. 11 (1976), 251-256) were dissolved in 80 ml of pyridine, and 14.8 g of 2-methoxy-5-chlorobenzoyl chloride were added at 0° C. The mixture was stirred at room temperature for 1.5 hours and at 60° C. for 1 hour. The cooled reaction mixture was partitioned between water and methylene chloride. The aqueous phase was extracted three times with methylene chloride. The combined organic phases were washed with 2N hydrochloric acid, water and bicarbonate solution. After drying and evaporation of the organic phase, the residue was dissolved in a little toluene and the product was precipitated with excess diethyl ether. 3-(5-chloro-2-methoxybenzamido)-7-methoxychroman of melting point 92°-93° C. was obtained.

reactant | 3-amino-7-methoxychroman hydrochloride | 70 mmol, 15.1 g | Cl.NC1COC2=CC(=CC=C2C1)OC
reactant | 2-methoxy-5-chlorobenzoyl chloride | 14.8 g | COC1=C(C(=O)Cl)C=C(C=C1)Cl | C8H6Cl2O2
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 3-(5-chloro-2-methoxybenzamido)-7-methoxychroman | ClC=1C=CC(=C(C(=O)NC2COC3=CC(=CC=C3C2)OC)C1)OC | C18H18ClNO4
